US07179912B2
A solution of m-anisidine (11.2 mL, 0.1 mol), chloroethyl ether (11.7 mL, 0.1 mol), and diisopropylethylarine (35 mL, 0.2 mol) in toluene (100 mL) was stirred at reflux for 72 h. The precipitate was removed by filtration and washed with toluene (100 mL). The combined toluene solutions were concentrated in vacuo and purified by distillation (120–130° C., 0.2 Torr) to afford the intermediate 4-(3-methoxyphenyl)-morpholine (14.9 g, 77%).

reactant | m-anisidine | 0.1 mol, 11.2 mL | COC1=CC(=CC=C1)N | C7H9NO
reactant | chloroethyl ether | 0.1 mol, 11.7 mL | ClCCOCCCl | C4H8Cl2O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(3-methoxyphenyl)-morpholine | 14.9 g, 77% | COC=1C=C(C=CC1)N1CCOCC1 | C11H15NO2
